US08383637B2
2-(2-Amino-6-benzoyl-4H-quinazolin-3-yl)-ethanesulfonic acid cyclohexyl-methyl-amide
A mixture of 2-(2-amino-5-benzoyl-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide (0.0054 mol) and cyanogen bromide (0.0080 mol) in ethanol (100 mL) was stirred and refluxed for 2 hours, and then the reaction mixture was cooled to room temperature. After filtration, the filter residue was washed with diisopropyl ether and dried under vacuum to yield the title compound as a solid.

reactant | 2-(2-amino-5-benzoyl-benzylamino)-ethanesulfonic acid cyclohexyl-methyl-amide | 0.0054 mol | C1(CCCCC1)N(S(=O)(=O)CCNCC1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)N)C | C23H31N3O3S
reactant | cyanogen bromide | 0.0080 mol | N#CBr | CBrN
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-(2-Amino-6-benzoyl-4H-quinazolin-3-yl)-ethanesulfonic acid cyclohexyl-methyl-amide | C1(CCCCC1)N(S(=O)(=O)CCN1C(=NC2=CC=C(C=C2C1)C(C1=CC=CC=C1)=O)N)C | C24H30N4O3S
